US04863920
12.38 g (50 mmol) of 7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at room temperature for 40 minutes with 9.80 g (55 mmol) of N-bromosuccinimide in 80 ml of N,N-dimethylformamide. The reaction mixture was poured into 800 ml of water and the suspension obtained was filtered. The filter residue was rinsed with water and taken up in methylene chloride. The organic phase was dried over magnesium sulphate and evaporated. After chromatography of the residue on silica gel while eluting with ethyl acetate and recrystallization from ethyl acetate and hexane there was obtained 3-bromo-7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 178°-179°.

reactant | 7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 50 mmol, 12.38 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1)C)=O | C12H10ClN3O
reactant | N-bromosuccinimide | 55 mmol, 9.80 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 800 ml | O | H2O
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-bromo-7-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | BrC=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C12H9BrClN3O
